US07714010B2
a) (E)-3-(3-Dimethylaminomethyl-phenyl)-acrylic acid ethyl ester
A mixture of (3-bromo-benzyl)-dimethyl-amine (1.10 g), ethyl acrylate (0.8 ml; 7.7 mmol), tri-o-tolyl-phosphane (156 mg; 0.53 mmol), Pd(OAc)2 (40 mg; 0.16 mmol) and NEt3 (1.4 ml; 10 mmol) is heated under reflux for 8 h. The reaction mixture is evaporated and the residue is subjected to flash chromatography on silica gel eluting with CH2Cl2/MeOH (95:5) to give the compound (800 mg).

reactant | (3-bromo-benzyl)-dimethyl-amine | 1.10 g | BrC=1C=C(CN(C)C)C=CC1 | C9H12BrN
reactant | ethyl acrylate | 7.7 mmol, 0.8 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tri-o-tolyl-phosphane | 0.53 mmol, 156 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | NEt3 | 10 mmol, 1.4 ml | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.16 mmol, 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-(3-Dimethylaminomethyl-phenyl)-acrylic acid ethyl ester | 800 mg | C(C)OC(\C=C\C1=CC(=CC=C1)CN(C)C)=O | C14H19NO2
